US08802695B2
(R)—N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide
(R)-4-(1,2-dihydroxypropan-2-yl)-N-(1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)benzamide (750 mg, 2.3 mmol) was dissolved in DMF (20 ml) and NCS (310 mg, 2.3 mmol) was added to it. Stirring continued at 50° C. for 3 hours. The mixture was poured into 50 ml ice water and was extracted into ethyl acetate (3×100 ml). Combined organic layers were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by preparatory HPLC (TFA mode, 15-50% ACN in water). Fractions containing the desired mono chlorinated product were combined, concentrated, washed with saturated NaHCO3 and brine, and then extracted into ethyl acetate (2×100 ml). Combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to obtain the title compound (R)—N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide (18 mg, 0.49 mmol, 21%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 3H) 3.45 (dd, J=5.81, 2.53 Hz, 2H) 3.78 (s, 2H) 4.74 (t, J=5.81 Hz, 1H) 5.03 (s, 1H) 7.46-7.69 (m, 2H) 8.01 (d, J=8.59 Hz, 2H) 8.34 (d, J=0.76 Hz, 1H) 8.59 (d, J=0.76 Hz, 1H) 10.64 (s, 1H); ESI-MS: m/z 360 (M+H)+; m.p. 210-212° C.

reactant | (R)-4-(1,2-dihydroxypropan-2-yl)-N-(1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)benzamide | 2.3 mmol, 750 mg | OC[C@](C)(O)C1=CC=C(C(=O)NC2=CC3=C(C=N2)C=CN3C)C=C1 | C18H19N3O3
reactant | NCS | 2.3 mmol, 310 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (R)—N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide | 0.49 mmol, 18 mg, 21% | ClC1=CN(C2=C1C=NC(=C2)NC(C2=CC=C(C=C2)[C@@](CO)(C)O)=O)C | C18H18ClN3O3
